US05135944
1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane was dissolved in dry CH2Cl2 and cooled to -70° C. under inert atmosphere. BBr3 was added. The mixture was warmed to room temperature and CH3OH was added. The solvent was removed in vacuo to give 1,6-bis-[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane.

reactant | 1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane | COC=1C=C(CC2N(CCC2)CCCCCCN2C(CCC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C32H48N2O4
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | CH3OH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,6-bis-[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane | OC=1C=C(CC2N(CCC2)CCCCCCN2C(CCC2)CC2=CC(=C(C=C2)O)O)C=CC1O | C28H40N2O4
